US04296114
1-(4-Chlorophenyl-1,2-dihydro-3-methyl-6-trifluoromethyl-quinoxalin-2-one
Preparation as in Example 1 but using ethyl pyruvate and N-(4-chlorophenyl)-4-trifluoromethylbenzene-1,2-diamine.

reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
reactant | N-(4-chlorophenyl)-4-trifluoromethylbenzene-1,2-diamine | ClC1=CC=C(C=C1)NC=1C(=CC(=CC1)C(F)(F)F)N | C13H10ClF3N2
product | 4-Chlorophenyl-1,2-dihydro-3-methyl-6-trifluoromethyl-quinoxalin-2-one | ClC1=CC=C(C=C1)N1C(C(=NC2=CC(=CC=C12)C(F)(F)F)C)=O | C16H10ClF3N2O
